US04414390
To a suspension of 6-(imidazo[1,2-a]pyridine-2-yl)-3,4-dihydrocarbostyril (5 g) in dioxane (50 ml) was added DDQ (6.47 g) with stirring at 70° C. The reaction mixture was heated for 5 hours with stirring. After completion of reaction, the solvent was evaporated. The residue was extracted by the addition of chloroform and 0.5 N sodium hydroxide. The chloroform layer was washed with 0.5 N sodium hydroxide, washed with water and dried. After evaporating chloroform, the residue obtained was isolated and purified using silica gel column chromatography. Oily product obtained was dissolved in acetone and the solution was adjusted to pH of about 1 with concentrated hydrochloric acid. Crystals which formed were collected by filtration. The crude crystals thus obtained were recrystallized from water to give 2.4 g of 6-(imidazo[1,2-a]pyridine-2-yl)carbostyril monohydrochloride.

reactant | 6-(imidazo[1,2-a]pyridine-2-yl)-3,4-dihydrocarbostyril | 5 g | N=1C(=CN2C1C=CC=C2)C=2C=C1CCC(NC1=CC2)=O | C16H13N3O
reactant | DDQ | 6.47 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
product | 6-(imidazo[1,2-a]pyridine-2-yl)carbostyril monohydrochloride | 2.4 g | Cl.N=1C(=CN2C1C=CC=C2)C=2C=C1C=CC(NC1=CC2)=O | InChI=1S/C16H11N3O.ClH/c20-16-7-5-11-9-12(4-6-13(11)18-16)14-10-19-8-2-1-3-15(19)17-14;/h1-10H,(H,18,20);1H
